US08466186B2
(e) 3-Amino-4-chloro-2-fluoro-benzylamine
The crude sub-title compound was prepared from 3-amino-4-chloro-2-fluoro-benzamide and LiAlH4 in analogy to step 5d.

reactant | 3-amino-4-chloro-2-fluoro-benzamide | NC=1C(=C(C(=O)N)C=CC1Cl)F | C7H6ClFN2O
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 3-Amino-4-chloro-2-fluoro-benzylamine | NC=1C(=C(CN)C=CC1Cl)F | C7H8ClFN2
